US09260408B2
2-(5-Bromo-pyridin-3-ylmethyl)-isothiazolidine 1,1-dioxide
In analogy to the procedure described for the preparation of intermediate A-12 [B], isothiazolidine 1,1-dioxide was reacted with 3-bromo-5-chloromethyl-pyridine (intermediate A-12 [A]) in the presence of NaH to give the title compound as a light yellow oil. MS: 292.8 and 290.9 (M+H+).

reactant | isothiazolidine 1,1-dioxide | S1(NCCC1)(=O)=O | C3H7NO2S
reactant | 3-bromo-5-chloromethyl-pyridine | BrC=1C=NC=C(C1)CCl | C6H5BrClN
reactant | NaH | [H-].[Na+]
product | 2-(5-Bromo-pyridin-3-ylmethyl)-isothiazolidine 1,1-dioxide | BrC=1C=C(C=NC1)CN1S(CCC1)(=O)=O | C9H11BrN2O2S
